US08227461B2
a) 6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester
To a solution of (5-methyl-3-phenyl-isoxazol-4-yl)-methanol (263 mg, 1.39 mmol) in THF (3 mL) was added sodium hydride (55% dispersion in mineral oil, 66.7 mg, 1.53 mmol). After stirring for 15 min at room temperature methyl 6-chloronicotinate (286 mg, 1.67 mmol) was added and the reaction mixture was stirred for 18 h. The mixture was then diluted with ethyl acetate (10 mL), washed with aqueous citric acid (10%, 10 mL), water (10 mL) and aqueous sodium chloride (saturated, 10 mL). The combined aqueous layers were extracted with ethyl acetate (10 mL) and the combined organic extracts dried over sodium sulfate. Filtration and concentration followed by purification by chromatography (silica, heptane:ethyl acetate 1:0 to 7:3) afforded the title compound (191 mg, 42%) as a colorless oil MS: m/e=325.3 [M+H]+.

reactant | (5-methyl-3-phenyl-isoxazol-4-yl)-methanol | 1.39 mmol, 263 mg | CC1=C(C(=NO1)C1=CC=CC=C1)CO | C11H11NO2
reactant | sodium hydride | 1.53 mmol, 66.7 mg | [H-].[Na+]
reactant | methyl 6-chloronicotinate | 1.67 mmol, 286 mg | ClC1=NC=C(C(=O)OC)C=C1 | C7H6ClNO2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 191 mg, 42% | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C18H16N2O4
